simulator lang=spectre
global 0
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_oa_cds_v1.11_4/models/spectre/ms018_enhanced_v1p11_spe.lib" section=tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_oa_cds_v1.11_4/models/spectre/ms018_enhanced_v1p11_spe.lib" section=bjt_tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_oa_cds_v1.11_4/models/spectre/ms018_enhanced_v1p11_spe.lib" section=dio_tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_oa_cds_v1.11_4/models/spectre/ms018_enhanced_v1p11_spe.lib" section=res_tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_oa_cds_v1.11_4/models/spectre/ms018_enhanced_v1p11_spe.lib" section=mim_tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_oa_cds_v1.11_4/models/spectre/ms018_enhanced_v1p11_spe.lib" section=var_tt

subckt NMCNR VINN VINP VOUT IBIAS VDD VSS
NM7 (IBIASP IBIAS VSS VSS) n18 w=2.3e-07 l=1.8e-07 m=1 //// Bias transistor
NM6 (net021 net028 VSS VSS) n18 w=4.5e-07 l=3.9e-07 m=1 //// Load transistor, 2nd stage
NM5 (VOUT net021 VSS VSS) n18 w=4.04e-06 l=1.8e-07 m=1 //// Input transistor, load(3rd) stage
NM4 (net028 net028 VSS VSS) n18 w=5.6e-07 l=5e-07 m=1 //// Load transistor, 2nd stage
NM0 (net27 VINN net26 VSS) n18 w=3.4e-07 l=1.9e-07 m=1 //// Input transistor, 1st stage ``NM1``
NM3 (IBIAS IBIAS VSS VSS) n18 w=2.4e-07 l=1.9e-07 m=1 //// Bias transistor
NM2 (net26 IBIAS VSS VSS) n18 w=2.3e-07 l=1.8e-07 m=1 //// Current tail transistor, 1st stage
NM1 (net28 VINP net26 VSS) n18 w=3.4e-07 l=1.9e-07 m=1 //// Input transistor, 1st stage ``NM0``
PM5 (IBIASP IBIASP VDD VDD) p18 w=2.3e-07 l=2e-07 m=1 //// Bias transistor
PM4 (net021 IBIASP VDD VDD) p18 w=2.6e-07 l=1.8e-07 m=1 //// Load transistor, 2nd stage
PM3 (VOUT IBIASP VDD VDD) p18 w=1.554e-05 l=1.8e-07 m=1 //// Load transistor, load(3rd) stage
PM2 (net028 net28 VDD VDD) p18 w=7.3e-07 l=1.8e-07 m=1 //// Input transistor, 2nd stage
PM1 (net27 net27 VDD VDD) p18 w=6.9e-07 l=6.2e-07 m=1 //// Load transistor, 1st stage ``PM0``
PM0 (net28 net27 VDD VDD) p18 w=6.9e-07 l=6.2e-07 m=1 //// Load transistor, 1st stage ``PM1``
C1 (net021 net027) capacitor c=7.36e-13 m=1 //// Miller cap 1
C0 (net28 net027) capacitor c=7.92e-13 m=1 //// Miller cap 2
R0 (net027 VOUT) resistor r=704.0 m=1 //// Nulling resistor
ends NMCNR


        parameters PSRR_type = 0 CMRR_type = 0
        V0 (VSS 0) vsource dc=0 type=dc
        V1 (VDD 0) vsource dc=1.8 type=sine mag = PSRR_type
        C0 (VOUT VSS) capacitor c=5e-11
        I0 (VDD IBIAS) isource dc=1e-06 type=dc
        V2 (VINP 0) vsource dc=0.9 type=sine mag = CMRR_type
        V3 (VINN VOUT) vsource dc=0 type=sine mag = CMRR_type
        I1 (VINN VINP VOUT IBIAS VDD VSS) NMCNR
        